US08242134B2
Cyano-(2-cyano-3-fluoro-phenyl)-acetic acid ethyl ester
A mixture of cyanoacetic acid ethyl ester (26.7 mL, 251 mmol), 2,6-difluorobenzonitrile (33.2 g, 239 mmol) and potassium carbonate (82.5 g, 597 mmol) in dimethyl sulfoxide (120 mL) was stirred at +55° C. for 16 hours and poured into ice-water mixture (ca. 400 mL). It was acidified with conc. aq. HCl with caution (CO2 evolution) and extracted with ethyl acetate (600 ml). The organic phase was washed with brine (100 mL) and evaporated to give 55.1 g of a pale yellow solid that was used in the next step without further purification. 1H NMR (500 MHz, CDCl3): 1.35 (t, J=7.0 Hz, 3H), 4.34 (m, 2H), 5.13 (s, 1H), 7.33 (t, J=8.4 Hz, 1H), 7.57 (d, J=7.9 Hz, 1H), 7.33 (dd, J=7.9 Hz, J=13.9 Hz, 1H).

reactant | cyanoacetic acid ethyl ester | 251 mmol, 26.7 mL | C(C)OC(CC#N)=O | C5H7NO2
reactant | 2,6-difluorobenzonitrile | 239 mmol, 33.2 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | potassium carbonate | 597 mmol, 82.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | Cl | ClH
reactant | CO2 | C(=O)=O | CO2
solvent | dimethyl sulfoxide | 120 mL | CS(=O)C | C2H6OS
product | Cyano-(2-cyano-3-fluoro-phenyl)-acetic acid ethyl ester | 55.1 g | C(C)OC(C(C1=C(C(=CC=C1)F)C#N)C#N)=O | C12H9FN2O2
